US04742052
A mixture of 4-methyl-4-p-nitrobenzyloxycarbonylaminovaleric acid p-methoxybenzyl ester (25 g), anisole (25 g) and trifluoroacetic acid (125 ml) was stirred for 15 minutes at room temperature. Evaporation of trifluoroacetic acid gave an oily residue which was then dissolved in diethyl ether. The ether solution was extracted with aqueous sodium carbonate. The aqueous layer was washed with diether ether, acidified with dilute hydrochloric acid and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give 4-methyl-4-p-nitrobenzyloxycarbonylaminovaleric acid.

reactant | 4-methyl-4-p-nitrobenzyloxycarbonylaminovaleric acid p-methoxybenzyl ester | 25 g | COC1=CC=C(COC(CCC(C)(NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C)=O)C=C1 | C22H26N2O7
reactant | anisole | 25 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 125 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-methyl-4-p-nitrobenzyloxycarbonylaminovaleric acid | CC(CCC(=O)O)(C)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O6
